US04960892
α-Methyl-6-(phenylmethoxy)-2-naphthaleneacetic acid
To a solution of 6-hydroxy-α-methyl-2-naphthaleneacetic acid (6.48 g, 30 mmol) in methanol (100 ml) is added sodium methoxide (60 mm). After 10 minutes the solvent is removed and replaced with dimethylformamide (100 ml). Benzyl chloride (7.6 g, 60 mmol) is then added and the reaction mixture is stirred overnight at room temperature. The reaction is then heated at 150° C. for 1 hour. The solvent is then removed and the residue is partitioned between water and methylene chloride. The organic layer is washed with water, dried over magnesium sulfate and evaporated to 11.5 g of crude product. This crude product is extracted with 100 ml hot hexane which affords 3.5 g of white crystals. A final recrystallization from methanol affords 2.5 g of white crystals of the intermediate ethyl ester (21% yield, m.p. 76°-78° C.).

reactant | 6-hydroxy-α-methyl-2-naphthaleneacetic acid | 30 mmol, 6.48 g | OC=1C=C2C=CC(=CC2=CC1)C(C(=O)O)C | C13H12O3
reactant | sodium methoxide | C[O-].[Na+]
reactant | Benzyl chloride | 60 mmol, 7.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
solvent | methanol | 100 ml | CO | CH4O
product | α-Methyl-6-(phenylmethoxy)-2-naphthaleneacetic acid | 3.5 g | CC(C(=O)O)C1=CC2=CC=C(C=C2C=C1)OCC1=CC=CC=C1 | C20H18O3
